US08258129B2
a) 4-furan-3-yl-1-nitrobenzene
200 mg 4-bromonitrobenzene, 110.8 mg furan-3-boric acid and 162 mg palladium/C are dissolved in 3 mL 1,4-dioxane. Then 965.3 mg caesium carbonate (dissolved in 586 μL water) are added. The reaction is completed in the microwave (110° C.) after 100 min. After aqueous working up the mixture is extracted with ethyl acetate and died on magnesium sulphate. The solvent is eliminated in vacuo. This crude product is used in the following reaction without further purification.

reactant | 4-bromonitrobenzene | 200 mg | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | caesium carbonate | 586 μL, 965.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | palladium | 162 mg | [Pd] | Pd
product | 4-furan-3-yl-1-nitrobenzene | O1C=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H7NO3
